US08383644B2
(S)-2-({(3S,8S)-7-(2,5-Dimethyl-oxazole-4-carbonyl)-3-[4-(3-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (30 mg) was dissolved in DMF and 3-methylbenzyl bromide (2 eq.) and potassium carbonate (3 eq.) added. The reaction mixture was stirred at room temperature and was then poured onto EtOAc and water. The organic layer was dried over sodium sulfate and concentrated. The mixture was purified over silica (hexanes; 1:1 hexanes EtOAc; 1:1 hexanes EtOAc+1% MeOH). The resulting compound was dissolved in 2 mL DCM and 1 mL 4N HCl (dioxane) was added. The mixture stirred at room temperature for 1.5 hours and was concentrated. The residue was suspended in DCM, TEA (3 eq.) added and the mixture used in the following reaction sequence. In a separate vial EDC (3 eq.) and 2,5-dimethyl-oxazole-4-carboxylic acid (6 eq.) were dissolved in DCM and stirred 40 minutes. This solution was added to the above mixture stirred 12 hours. The reaction mixture was directly purified over silica (hexanes; 1:1 hexanes/EtOAc; 1:1 hexanes EtOAc+1% MeOH; 1:1 hexanes EtOAc+2% MeOH; 1:1 hexanes EtOAc+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 808.

reactant | (3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 30 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)O | C40H43N3O8
reactant | 3-methylbenzyl bromide | 2 eq. | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | potassium carbonate | 3 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | EDC | 3 eq.
reactant | 2,5-dimethyl-oxazole-4-carboxylic acid | 6 eq. | CC=1OC(=C(N1)C(=O)O)C | C6H7NO3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)-2-({(3S,8S)-7-(2,5-Dimethyl-oxazole-4-carbonyl)-3-[4-(3-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | CC=1OC(=C(N1)C(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=CC=C3)C)C | C48H46N4O8
